US06147251
Preparation of butyl 2-methylene-3-phenoxy-4,4,4-trichlorobutyrate
Phenol (2.0 g) in 15 ml of tetrahydrofuran (THF) was slowly added to sodium hydride (1.0 g, 60% in oil) suspended in 5 ml THF at 0° C. Fifteen minutes later, 3.0 g of butyl 2-methylene-3-acetoxy-4,4,4-trichlorobutyrate (crude, GC: 86%) in 10 ml THF was slowly dropped into the phenoxide solution. The reaction was stirred at 0° C. for 3 hours and then permitted to warm to room temperature. The reaction was worked up by addition of 50 ml of water and 50 ml of ether. The organic layer was separated and the solvents were removed by vacuum. The resulting yellow oil was transferred to an alumina column and the product was eluted out with hexanes. A slightly yellow oil was obtained after removal of the hexanes, 3.1 g. The product was confirmed by NMR spectroscopy to be butyl 2-methylene-3-phenoxy-4,4,4-trichlorobutyrate.

reactant | Phenol | 2.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | butyl 2-methylene-3-acetoxy-4,4,4-trichlorobutyrate | 3.0 g | C=C(C(=O)OCCCC)C(C(Cl)(Cl)Cl)OC(C)=O | C11H15Cl3O4
reactant | phenoxide | [O-]C1=CC=CC=C1
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | THF | 5 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | O1CCCC1 | C4H8O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | butyl 2-methylene-3-phenoxy-4,4,4-trichlorobutyrate | C=C(C(=O)OCCCC)C(C(Cl)(Cl)Cl)OC1=CC=CC=C1 | C15H17Cl3O3
